US07759376B2
Step 2. Preparation of 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methoxybiphenyl-4-carboxylic Acid
Butyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methoxybiphenyl-4-carboxylate (0.30 g, 0.43 mmol) and methyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methoxybiphenyl-4-carboxylate (0.13 g, 0.25 mmol) were combined in THF (6 mL), MeOH (6 mL) and water (3 mL), and then NaOH (0.09 g, 2.1 mmol) was added. The reaction mixture was heated at 50° C. for 3 h. Upon cooling to rt, the reaction mixture was concentrated under reduced pressure, acidified, and the resulting solid was collected by filtration. This yielded 0.286 g (87%) of the title compound. LC/MS m/z 395.2 (MH+), retention time 3.30 min. 1H NMR (400 MHz, DMSO-d6) δ 3.90 (s, 3H), 7.12-7.33 (m, 3H), 7.61-7.90 (m, 7H), 10.62 (br, 1H).

reactant | Butyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methoxybiphenyl-4-carboxylate | 0.43 mmol, 0.30 g | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC(=C(C=C2)C(=O)OCCCC)OC)C=C1 | C25H23FN2O3S
reactant | methyl 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methoxybiphenyl-4-carboxylate | 0.25 mmol, 0.13 g | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC(=C(C=C2)C(=O)OC)OC)C=C1 | C22H17FN2O3S
reactant | MeOH | 6 mL | CO | CH4O
reactant | NaOH | 2.1 mmol, 0.09 g | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methoxybiphenyl-4-carboxylic Acid | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC(=C(C=C2)C(=O)O)OC)C=C1 | C21H15FN2O3S
